US06229015B1
1. Preparation of 1-[[2-(diethylamino)ethyl]amino]-7-benzyloxy-4-nitroacridin-9(10H)-one (III-P)
A mixture of 7-benzyloxy-1-chloro-4-nitroacridin-9(10H)-one (IV-P) (9.52 g, 25 mmol), 2-diethylaminoethylamine (4.3 ml, 30 mmol) and triethylamine (3.5 ml, 25 mmol) in dimethylformamide or dimethyl sulphoxide (150 ml) was stirred and heated at 60° C. for 1 hour. Next water (500 ml) and a concentrated solution of sodium carbonate (40 ml) were added and the precipitate was filtered, washed with water and dried to give 10.8 g (94%) of crude product. Crystallisation from dimethylformamide (100 ml) gave analytically pure product, yield 10 g (87%).

reactant | 7-benzyloxy-1-chloro-4-nitroacridin-9(10H)-one | 25 mmol, 9.52 g | C(C1=CC=CC=C1)OC1=CC=C2NC=3C(=CC=C(C3C(C2=C1)=O)Cl)[N+](=O)[O-] | C20H13ClN2O4
reactant | 2-diethylaminoethylamine | 30 mmol, 4.3 ml | C(C)N(CCN)CC | C6H16N2
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 40 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 1-[[2-(diethylamino)ethyl]amino]-7-benzyloxy-4-nitroacridin-9(10H)-one | 10.8 g, 94% | C(C)N(CCNC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OCC1=CC=CC=C1)[N+](=O)[O-])CC | C26H28N4O4
